US06949571B2
3,5-Dibromo-2-methoxypyridine
80 ml of a 28% sodium methoxide solution was incorporated with 30.0 g of 2,3,5-tribromopyridine under ice-cooling, followed by stirring at 50° C. for 2 hours. The reaction solution was diluted with water and extracted with diethyl ether. The organic layer was washed with brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel chromatography (ethyl acetate/hexane=1:20), to give 18.5 g of the title compound.

reactant | sodium methoxide | C[O-].[Na+]
reactant | 2,3,5-tribromopyridine | 30.0 g | BrC1=NC=C(C=C1Br)Br | C5H2Br3N
solvent | water | O | H2O
product | 3,5-Dibromo-2-methoxypyridine | 18.5 g | BrC=1C(=NC=C(C1)Br)OC | C6H5Br2NO
